US06162417
Trans-1,2,3,5,6,10b-Hexahydro-6-[4'-(3-hydroxy-1-propenyl)phenyl]pyrrolo[2,1-a]isoquinoline (17).
To a stirred solution of Pd(OAc)2 (17 mg, 0.07 mmol), Ph3P (35 mg, 0.14 mmol), CuI (15 mg), Pd(Ph3P)4 (10 mg) in 5 mL of triethylamine was added a solution of trans-1,2,3,5,6,10b-hexahydro-6-(4'-bromophenyl)pyrrolo[2,1-a]isoquinoline (440 mg, 1.34 mmol) in 15 mL of triethylamine at room temperature followed by addition of propargyl alcohol (208 mg, 3.67 mmol). The reaction mixture was teated at reflux overnight, cooled to room temperature, quenched with sat'd NaHCO3 solution (20 mL), extracted with methylene chloride (3×20 mL). The combined methylene chloride extract was dried over anhydrous MgSO4, filtered and concentrated to afford a crude product mixture. Flash chromatography with 3.5% MeOH, 0.07% Et3N in methylene chloride gave starting material 280 mg (64% recovery) and 58 mg of thick orange oil (58% conversion yield). 1H NMR (CDCl3) δ 1.73-2.05 (m, 3H, C2H2 & C1H), 2.30-2.2.44 (m, 1H, C1H), 2.579 (dt, 1H, J=9.0, 8.7 Hz, C3H), 2.869 (dd, 1H, J=5.1, 11.1 Hz, C5H), 2.90-3.03 (m, 2H, C3H & C5H), 3.480 (dd, 1H, J=7.2, 9.0 Hz, C10bH), 4.125 (t, 1H, J=4.8 Hz, C6H), 6.865 (d, 1H, J=7.5 Hz, aryl), 6.995 (d, 2H, J=8.1 Hz, C6 phenyl aryl), 7.04-7.20 (m, 3H, aryl), 7.575 (d, 2H, J=8.1 Hz, C6 phenyl aryl); 13C NMR (CDCl3) δ 22.17 (C2), 30.31 (C1), 45.48 (C3), 54.13 (C10b), 55.95 (C6), 63.67 (C5), 91.60 (4'C), 125.73 (aromatic), 126.30, 129.30, 130.97, 137.23.

reactant | Ph3P | 0.14 mmol, 35 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | trans-1,2,3,5,6,10b-hexahydro-6-(4'-bromophenyl)pyrrolo[2,1-a]isoquinoline | 1.34 mmol, 440 mg | BrC1=CC=C(C=C1)[C@@H]1CN2[C@@H](C3=CC=CC=C13)CCC2 | C18H18BrN
reactant | propargyl alcohol | 3.67 mmol, 208 mg | C(C#C)O | C3H4O
reactant | MeOH | CO | CH4O
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.07 mmol, 17 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | CuI | 15 mg | [Cu]I
catalyst | Pd(Ph3P)4 | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Et3N | CCN(CC)CC | C6H15N
product | Trans-1,2,3,5,6,10b-Hexahydro-6-[4'-(3-hydroxy-1-propenyl)phenyl]pyrrolo[2,1-a]isoquinoline | OCC=CC1=CC=C(C=C1)[C@@H]1CN2[C@@H](C3=CC=CC=C13)CCC2 | C21H23NO
